US08871767B2
N-(2-methyl-5-(6-(3,4,5-trimethoxybenzylamino)imidazo[1,2-b]pyridazin-2-yl)phenyl)pivalamide
A 40-mL vial is charged with N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide (1.0285 g, 3 mmol), tert-butyl xphos (0.255 g, 0.6 mmol), sodium tert-butoxide (0.577 g, 6 mmol), and bis(dibenzylideneacetone)palladium(0) (0.172 g, 0.3 mmol) and the vial is purged with N2. Toluene (16 mL) and 3,4,5-trimethoxybenzylamine (1.54 mL, 9 mmol) is added and the mixture heated at 100° C. for 1 hr. The reaction mixture is filtered through celite, washed with 1:1:0.1 CH2Cl2:EtOAc:MeOH and concentrated onto celite, and purified by silica gel chromatography (0-100% 1:1:0.1 CH2Cl2:EtOAc:MeOH) to afford the title compound (0.604 g). LCMS (m/z)=504.6 [M+H]+, tR=2.31 min.

reactant | N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide | 3 mmol, 1.0285 g | ClC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C18H19ClN4O
reactant | tert-butyl xphos | 0.6 mmol, 0.255 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C(C)(C)C)C(C)(C)C)C(C)C | C29H45P
reactant | sodium tert-butoxide | 6 mmol, 0.577 g | CC(C)([O-])C.[Na+]
reactant | 3,4,5-trimethoxybenzylamine | 9 mmol, 1.54 mL | COC=1C=C(CN)C=C(C1OC)OC | C10H15NO3
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.3 mmol, 0.172 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | Toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-methyl-5-(6-(3,4,5-trimethoxybenzylamino)imidazo[1,2-b]pyridazin-2-yl)phenyl)pivalamide | 0.604 g | CC1=C(C=C(C=C1)C=1N=C2N(N=C(C=C2)NCC2=CC(=C(C(=C2)OC)OC)OC)C1)NC(C(C)(C)C)=O | C28H33N5O4
